US05703240
trans-5-Nitro-6-(4-trifluoromethyl-phenyl)-piperidin-2-one
Ammonium acetate (21.21 g), 4-trifluoromethylbenzaldehyde (19.61 ml) and methyl 4-nitrobutyrate (17.5 ml) in ethanol (150 ml) was stirred and heated under reflux for 3.5 h. After cooling to room temperature, an orange solid was formed which was filtered, washed with ethanol (2×100 ml) and dried in vacuo to give the title compound (30.56 g). Mass spectrometry. For C12H11F3N2O3, m/z 5.77 (2M+H+), 306 (M+NH4), 289 (MH+).

reactant | Ammonium acetate | 21.21 g | C(C)(=O)[O-].[NH4+]
reactant | 4-trifluoromethylbenzaldehyde | 19.61 ml | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | methyl 4-nitrobutyrate | 17.5 ml | [N+](=O)([O-])CCCC(=O)OC | C5H9NO4
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | trans-5-Nitro-6-(4-trifluoromethyl-phenyl)-piperidin-2-one | 30.56 g | [N+](=O)([O-])[C@@H]1CCC(N[C@H]1C1=CC=C(C=C1)C(F)(F)F)=O | C12H11F3N2O3
